US04798843
(i) 4-Methoxyphenylacetyl chloride
Thionyl chloride (200 ml) was added to 4-methoxyphenylacetic acid (78 g, 0.47 mole) followed by one drop of dimethylformamide. The reaction was heated at 65° C. for 4 hours and the solvent was removed under vacuum. The residue was distilled in vacuo (water aspirator) at 135° C. to give the product as a red oil (75.9 g, 88%).

reactant | 4-methoxyphenylacetic acid | 0.47 mole, 78 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | Thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 4-Methoxyphenylacetyl chloride | 75.9 g, 88% | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
